US07579417B2
d) 2-(Bromomethyl)-7-phenylnaphthalene
2-Methyl-7-phenylnaphthalene (5.4 g, 25 mmole) and N-bromosuccinimide (4.4 g, 25 mmole) were suspended in CCl4 (60 ml). Benzoylperoxide (0.25 g) and Br2 (20 mkl) were added, the mixture was refluxed for 3 h, filtered, evaporated and dried giving practically pure product. The yield 7.4 g (˜100%).

reactant | 2-Methyl-7-phenylnaphthalene | 25 mmole, 5.4 g | CC1=CC2=CC(=CC=C2C=C1)C1=CC=CC=C1 | C17H14
reactant | N-bromosuccinimide | 25 mmole, 4.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Benzoylperoxide | 0.25 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Br2 | BrBr | Br2
solvent | CCl4 | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(Bromomethyl)-7-phenylnaphthalene | BrCC1=CC2=CC(=CC=C2C=C1)C1=CC=CC=C1 | C17H13Br
